US04281000
Ethyl 7-(4-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
A mixture of 3.52 g. of 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one and 3.10 g. of ethyl 3-aminopyrazole-4-carboxylate in 50 ml. of glacial acetic acid is refluxed for 15 hours. The solvent is removed and the residue worked up as for Example 53 to give 3.0 g. of crystals, m.p. 209°-210° C.

reactant | 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
reactant | ethyl 3-aminopyrazole-4-carboxylate | NC1=NNC=C1C(=O)OCC | C6H9N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 7-(4-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | N1=CC=C(C=C1)C1=CC=NC=2N1N=CC2C(=O)OCC | C14H12N4O2
